US05347054
195.3 g (1.0 mol) of 2-chlorobenza1 chloride are initially charged at 120° C. At this temperature 20 ml (21.8 g, 1.09 mol of water) of a 10% strength aqueous zinc chloride solution are metered in over a period of 5 hours. The mixture is stirred for a further 30 minutes at 120° C. After cooling to room temperature the reaction mixture is extracted with 1×10 ml and 2×5 ml of water. The organic phase is subsequently free of chloride and is worked up by distillation. 136.0 g (97% of theoretical) of 2-chlorobenzaldehyde (b.p.: 90° C./16 torr) with a purity of >99.9% are obtained. The combined aqueous phases (20 ml, 22.0 g) are used in Example 2 as catalyst solution.

reactant | 2-chlorobenza1 chloride | 1.0 mol, 195.3 g | ClC1=C(C(Cl)Cl)C=CC=C1 | C7H5Cl3
reactant | water | 1.09 mol, 21.8 g | O | H2O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | 2-chlorobenzaldehyde | 136.0 g, 97% | ClC1=C(C=O)C=CC=C1 | C7H5ClO
